US04831031
6-(4-(4-(1-Naphthyl)piperazinyl)butyl)-benzoxazolone
To a 125 ml round-bottom flask equipped with condenser and N2 inlet were added 0.658 g (3.10 mmol) of 6-(4-chlorobutyl)-benzoxazolone, 0.7 g (3.10 mmol of N-(1-naphthyl)piperazine, 0.328 g sodium carbonate, 2 mg sodium iodide, and 50 ml isopropanol. The reaction was refluxed for 3 days, evaporated, taken up in methylene chloride, washed with water, dried over sodium sulfate, and evaporated. The residue was chromatographed on silica gel using ethyl acetate as eluent, and the product dissolved in acetone, precipitated with ethereal HCl, and the white solid filtered, washed with acetone, and dried to afford 0.676 g (46.0%) of a white solid, m.p. 231°-233° C.

reactant | 6-(4-chlorobutyl)-benzoxazolone | 3.10 mmol, 0.658 g | ClCCCCC1=CC2=C(NC(O2)=O)C=C1 | C11H12ClNO2
reactant | N-(1-naphthyl)piperazine | 3.10 mmol | C1(=CC=CC2=CC=CC=C12)N1CCNCC1 | C14H16N2
reactant | sodium carbonate | 0.328 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | sodium iodide | 2 mg | [I-].[Na+]
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 6-(4-(4-(1-Naphthyl)piperazinyl)butyl)-benzoxazolone | 0.676 g, 46.0% | C1(=CC=CC2=CC=CC=C12)N1CCN(CC1)CCCCC1=CC2=C(NC(O2)=O)C=C1 | C25H27N3O2
